US07291632B2
Add slowly 4-fluorobenzoyl chloride (403 mg, 2.54 mmol) to a solution of 5-fluoro-benzene-1,3-diamine (Preparation 32 320 mg, 2.54 mmol) in triethylamine (514 mg, 0.71 mL, 5.08 mmol) and THF (10 mL) at 0° C. Stir the mixture overnight and gradually raise to room temperature. Quench the reaction with 0.1N NaOH solution, and extract the mixture with ethylacetate three times. Combine the organic layers and wash with saturated NaCl solution, dry over Na2SO4, filter and concentrate to give a solid. Purify by chromatography (silica gel, eluting with 25–40% ethylacetate in hexanes) gives 379 mg (60%) of N-(3-amino-5-fluoro-phenyl)-4-fluoro-benzamide.

reactant | 4-fluorobenzoyl chloride | 2.54 mmol, 403 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 5-fluoro-benzene-1,3-diamine | 2.54 mmol, 320 mg | FC=1C=C(C=C(C1)N)N | C6H7FN2
reactant | triethylamine | 5.08 mmol, 0.71 mL, 514 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(3-amino-5-fluoro-phenyl)-4-fluoro-benzamide | 379 mg, 60% | NC=1C=C(C=C(C1)F)NC(C1=CC=C(C=C1)F)=O | C13H10F2N2O
